US07820680B2
Step 2: Methyl N-[1-{[(tert-butoxycarbonyl)(4-fluorobenzyl)amino]methyl}-3-(4-methylpiperazin-1-yl)propyl]glycinate
The title compound was prepared from tert-butyl-4-fluorobenzyl[4-(4-methylpiperazin-1-yl)-2-oxobutyl]carbamate and glycine methyl ester hydrochloride using a procedure essentially the same as that in Example 6, Step 6. 1H NMR (400 MHz, CDCl3) δ 7.19 (br s, 2H), 7.00 (t, J=8.4 Hz, 2H), 4.50-4.46 (m, 1H), 4.39 (d, J=15.6 Hz, 1H), 4.05 (d, J=4.8 Hz, 1H), 3.77 (s, 1H), 3.72 (s, 3H), 3.56-3.38 (m, 2H), 3.27-3.05 (m, 2H), 2.82-2.77 (m, 2H), 2.55-2.43 (m, 8H), 2.29 (s, 3H), 2.05 (s, 2H), 1.45 (d, J=13.2 Hz, 9H). ES MS (M+1)=467.4.

reactant | tert-butyl-4-fluorobenzyl[4-(4-methylpiperazin-1-yl)-2-oxobutyl]carbamate | C(C)(C)(C)OC(N(CC(CCN1CCN(CC1)C)=O)CC1=CC=C(C=C1)F)=O | C21H32FN3O3
reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
product | Methyl N-[1-{[(tert-butoxycarbonyl)(4-fluorobenzyl)amino]methyl}-3-(4-methylpiperazin-1-yl)propyl]glycinate | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)F)CC(CCN1CCN(CC1)C)NCC(=O)OC | C24H39FN4O4
